### PR TITLE
[Merged by Bors] - feat: add `Finset.piAntidiagonal`

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This is defined in terms of `Finset.HasAntidiagonal`.

A subsequent PR #9309 uses this to compute coefficients of products of power series.

Co-author : Maria Ines de Frutos Fernandez

Based on work of Bhavik Mehta in `Archive/Partition.lean`

---

- [x] depends on:  #9316

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by AntoineChambert-Loir** [comment]
The `Fin.hasPiAntidiagonal_univ` instance will probably be good enough to replace docs#Finset.Nat.antidiagonalTuple but there's an issue of what the right definition of `HasPiAntidiagonal` should be. 
For applications (such as ours, or `cut` in Partition.lean), I think we need not only functions from a fintype, but functions from an arbitrary type, except that we bound the support. 
Playing with coercions (from the fintype associated with the finset, to the ambient type) will probably be tedious.

File: Mathlib/Data/Finset/NatAntidiagonal.lean
Comment (eric-wieser) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:1]: Are the changes to this file needed? They look like they might just be merge conflicts.

File: Archive/Wiedijk100Theorems/Partition.lean [hunk 1]
```diff
@@ -319,17 +327,31 @@ theorem partialGF_prop (α : Type*) [CommSemiring α] (n : ℕ) (s : Finset ℕ)
...
-        sum_multiset_count_of_subset p s fun x hx => hp₄ _ (Multiset.mem_toFinset.mp hx)]
-    · intro i hi
-      left
-      exact Multiset.count_eq_zero_of_not_mem (mt (hp₄ i) hi)
-    · exact fun i _ => ⟨_, hp₃ i, rfl⟩
+    -- refine' ⟨_, _, _⟩
+    constructor
+    · -- rw [mem_piAntidiagonal] does not work because of distinct decidable instances
+      -- ugly hack
+      suffices : s.sum (fun i ↦ Multiset.count i p • i) = n ∧
```
Comment (jcommelin) [inline Archive/Wiedijk100Theorems/Partition.lean:339]: This proof got a lot longer. Do you know why?

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 2]
```diff
@@ -551,6 +551,38 @@ theorem prod_embDomain [Zero M] [CommMonoid N] {v : α →₀ M} {f : α ↪ β}
 #align finsupp.prod_emb_domain Finsupp.prod_embDomain
 #align finsupp.sum_emb_domain Finsupp.sum_embDomain
 
+lemma mem_embDomain [Zero M] {f : α ↪ β} {g : β →₀ M} :
+    (∃  (v : α →₀ M), embDomain f v = g) ↔ (g.support : Set β) ⊆ (Set.range f) := by
```
Comment (jcommelin) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:555]:
```suggestion
    (∃ (v : α →₀ M), embDomain f v = g) ↔ (g.support : Set β) ⊆ (Set.range f) := by
```

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 3]
```diff
@@ -551,6 +551,38 @@ theorem prod_embDomain [Zero M] [CommMonoid N] {v : α →₀ M} {f : α ↪ β}
 #align finsupp.prod_emb_domain Finsupp.prod_embDomain
 #align finsupp.sum_emb_domain Finsupp.sum_embDomain
 
+lemma mem_embDomain [Zero M] {f : α ↪ β} {g : β →₀ M} :
```
Comment (jcommelin) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:554]: Should this maybe be called `exists_embDomain_eq`?

File: Mathlib/Data/Finset/Image.lean [hunk 4]
```diff
@@ -884,6 +884,21 @@ theorem finsetCongr_toEmbedding (e : α ≃ β) :
 
 end Equiv
 
+section InjOn
+
+variable {α β : Type*} {f : α → β}  {s : Set α} (hs : Set.InjOn f s)
+
+/-- The image of a Finset under a map on which it is injective -/
+def Finset.map_of_injOn {s : Finset α} (hs : Set.InjOn f s) :
+    Finset β  := s.attach.map { inj' := hs.injective }
```
Comment (jcommelin) [inline Mathlib/Data/Finset/Image.lean:893]:
```suggestion
    Finset β := s.attach.map { inj' := hs.injective }
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 5]
```diff
@@ -831,6 +832,68 @@ set_option linter.uppercaseLean3 false in
 
 end Semiring
 
+section CommSemiring
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:835]: If you don't mind, I would prefer if the changes in this file were postponed till a later PR. It seems to me that these are new additions that are somewhat unrelated to the antiDiagonal refactor.

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 6]
```diff
@@ -0,0 +1,393 @@
...
+Let `μ` be an AddCommMonoid.
+
+In `Mathlib.Data.Finset.Antidiagonal` is defined a TypeClass
+`HasAntidiagonal μ` which provides a function `μ → Finset (μ × μ)
+which maps `n : μ` to a `Finset` of pairs `(a,b)`
+such that `a + b = n`.
+
+These functions apply to `ι →₀ ℕ`, more generally to `ι →₀ μ`
+under the additional assumption `OrderedSub μ` that make it
+a canonically ordered add monoid.
```
Comment (jcommelin) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:23]:
```suggestion
a canonically ordered additive monoid.
```

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 7]
```diff
@@ -0,0 +1,393 @@
...
+In fact, we just need an AddMonoid with a compatible order,
+finite Iic, such that if a + b = n, then a, b ≤ n,
+and any other bound would be OK.
+
+In this file, we provide an analogous definition for `ι →₀ μ`,
+with an explicit finiteness conditions on the support.
```
Comment (jcommelin) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:29]:
```suggestion
with an explicit finiteness condition on the support.
```

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 8]
```diff
@@ -0,0 +1,393 @@
...
+      (fun ab => (finAntidiagonal d ab.2).map {
+        toFun := fun f => Finsupp.cons (ab.1) f
+        inj' := fun f g h => by
+          simp only at h
+          rw [← tail_cons ab.1 f, ← tail_cons ab.1 g, h]})
+
+lemma mem_finAntidiagonal (d : ℕ) (n : μ) (f : Fin d →₀ μ) :
+    f ∈ finAntidiagonal d n ↔ sum f (fun _ x => x) = n := by
+  revert n f
+  induction d with
```
Comment (jcommelin) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:88]: I'm 99% sure that this should work:
```suggestion
  induction d generalizing n f with
```
But you'll have to remove the `fun n f =>` in the two branches below.

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 9]
```diff
@@ -0,0 +1,393 @@
...
+
+lemma mem_piAntidiagonal' (s : Finset ι) (n : μ) (f) :
+    f ∈ piAntidiagonal s n ↔ f.support ≤ s ∧ s.sum f = n := by
+  rw [mem_piAntidiagonal]
+  simp only [le_eq_subset, and_congr_right_iff]
+  intro hs
+  rw [sum_of_support_subset _ hs]
+  exact fun _ _ => rfl
+
+theorem piAntidiagonal_empty_of_zero :
```
Comment (jcommelin) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:133]: Should this be a simp lemma?
```suggestion
@[simp]
theorem piAntidiagonal_empty_of_zero :
```

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 10]
```diff
@@ -0,0 +1,393 @@
...
+theorem mem_piAntidiagonal_insert [DecidableEq ι] {a : ι} {s : Finset ι}
+    (h : a ∉ s) (n : μ) {f : ι →₀ μ} :
+    f ∈ piAntidiagonal (insert a s) n ↔
+      ∃ m ∈ antidiagonal n, ∃ (g : ι →₀ μ),
+        f = Finsupp.update g a m.1 ∧ g ∈ piAntidiagonal s m.2 := by
+  simp only [mem_piAntidiagonal', le_eq_subset, mem_antidiagonal, Prod.exists]
+  constructor
+  · rintro ⟨hsupp, hsum⟩
+    use (f a)
+    use (s.sum f)
```
Comment (jcommelin) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:168]:
```suggestion
    use (f a), (s.sum f)
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:835]: That is possible (but a bit painful, because that postpones once again our main interest for antiDiagonal…)

File: Mathlib/Algebra/BigOperators/Finsupp.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/BigOperators/Finsupp.lean:554]: Yes.

File: Mathlib/Data/Finset/PiAntidiagonal.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/PiAntidiagonal.lean:88]: Let me try!

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:835]: Actually, this is a good and general question:
My impression is that this refactor would be moot without applications like the one for power series. Then, how can one be sure that a PR will lead to such applications if they are not included in it? Chaining pull requests?

Comment (eric-wieser) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:835]: This refactor is sufficiently justified by the fact it cleans up something in the archive; but indeed, dependent PRs are the preferred way to demonstrate how a more basic result will later be used in something more complicated.

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 11]
```diff
@@ -0,0 +1,393 @@
...
+namespace Finset
+
+open scoped BigOperators
+
+open Function Finsupp
+
+section HasPiAntidiagonal
+
+/-- The HasPiAntidiagonal class -/
+class HasPiAntidiagonal (ι : Type*) (μ : Type*) [AddCommMonoid μ] where
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:57]: It's not clear to me that this typeclass is useful; can we not always build this operation inductively (and efficiently) from the binary antidiagonal, or are there cases where this is not true?

File: Mathlib/Data/Finset/PiAntidiagonal.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/PiAntidiagonal.lean:88]: Actually I had to do `induction d generalizing n with`, because the `f` was automatically generalized.

File: Mathlib/Data/Finset/PiAntidiagonal.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/PiAntidiagonal.lean:57]: You mean, a structure is enough?

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/PiAntidiagonal.lean:57]: In any case, there is the example of docs#Finset.Nat.antidiagonalTuple which is a stuff like that, constructed directly from a list, not explicitly using `HasAntidiagonal`

Comment (eric-wieser) [reply Mathlib/Data/Finset/PiAntidiagonal.lean:57]: My claim is that you can write
```
def piAntidiagonal [HasAntidiagonal α] (s : Finset ι) (a : α) : Finset (ι →₀ α)
```
and that the only reasonable implementation has the same complexity as any α-specific implementation.

The analogy here is that we have no `FiniteSum` typeclass; we derive `Finset.sum` from `Add`

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: Done, see #9309

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 12]
```diff
@@ -0,0 +1,392 @@
...
+
+
+namespace HasPiAntidiagonal
+
+section Fin
+
+variable {μ : Type*} [AddCommMonoid μ] [DecidableEq μ] [HasAntidiagonal μ]
+
+/-- `finAntidiagonal d n` is the type of d-tuples with sum n -/
+noncomputable def finAntidiagonal : (d : ℕ) → μ → Finset (Fin d →₀ μ)
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:59]: I assume `Finsupp.cons` is what makes this `noncomputable`? I think for this function it would be best to stay computable and return
```suggestion
def finAntidiagonal : (d : ℕ) → μ → Finset (Fin d → μ)
```
Since it's easy to convert to finsupp later.

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/PiAntidiagonal.lean]: Done. For the moment I've kept a Finsupp variant (with an index 0)

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 13]
```diff
@@ -0,0 +1,372 @@
...
+def finAntidiagonal : (d : ℕ) → μ → Finset (Fin d → μ)
+  | 0 => fun n => ite (n = 0) {0} ∅
+  | d + 1 => fun n => by
+    exact Finset.biUnion (antidiagonal n)
+      (fun ab => (finAntidiagonal d ab.2).map {
+        toFun := Fin.cons (ab.1)
+        inj' := Fin.cons_right_injective _ })
+
+lemma mem_finAntidiagonal (d : ℕ) (n : μ) (f : Fin d → μ) :
+    f ∈ finAntidiagonal d n ↔ univ.sum f = n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:69]: I think the notation is a little nicer here:
```suggestion
    f ∈ finAntidiagonal d n ↔ ∑ i, f i = n := by
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: Well, it is possible that I've done it slightly wrong.
- The commit #9309 is a branch, and contains all earlier commits, though after the merge of the present PR, a few modifications will be visible.
- I have also delegated the modifications to the `Archive.Partition` file to that new PR.

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 14]
```diff
@@ -0,0 +1,372 @@
...
+namespace HasAntidiagonal
+
+section Fin
+
+variable {μ : Type*} [AddCommMonoid μ] [DecidableEq μ] [HasAntidiagonal μ]
+
+
+/-- `finAntidiagonal d n` is the type of d-tuples with sum n -/
+def finAntidiagonal : (d : ℕ) → μ → Finset (Fin d → μ)
+  | 0 => fun n => ite (n = 0) {0} ∅
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:61]:
```suggestion
  | 0, n => if n = 0 then {0} else ∅
```

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 15]
```diff
@@ -0,0 +1,372 @@
...
+  | d + 1 => fun n => by
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:62]:
```suggestion
  | d + 1, n =>
```
And drop the `exact` below too

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 16]
```diff
@@ -0,0 +1,372 @@
...
+        toFun := Subtype.val.comp (equivFin s).symm,
+        inj' := by
+          rw [Equiv.injective_comp]
+          exact Subtype.val_injective }
+    inj' := embDomain_injective _ }
+
+/-- A function belongs to `piAntidiagonal s n`
+    iff its support is contained in s and the sum of its components is equal to `n` -/
+lemma mem_piAntidiagonal {s : Finset ι} {n : μ} {f : ι →₀ μ} :
+    f ∈ piAntidiagonal s n ↔ f.support ≤ s ∧ Finsupp.sum f (fun _ x => x) = n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:134]:
```suggestion
    f ∈ piAntidiagonal s n ↔ f.support ⊆ s ∧ Finsupp.sum f (fun _ x => x) = n := by
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+

File: Mathlib/Data/Finset/Image.lean [hunk 17]
```diff
@@ -884,6 +884,21 @@ theorem finsetCongr_toEmbedding (e : α ≃ β) :
 
 end Equiv
 
+section InjOn
+
+variable {α β : Type*} {f : α → β}  {s : Set α} (hs : Set.InjOn f s)
+
+/-- The image of a Finset under a map on which it is injective -/
+def Finset.map_of_injOn {s : Finset α} (hs : Set.InjOn f s) :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Image.lean:892]: This doesn't match the naming convention.

@YaelDillies, thoughts on this definition in general?

**Review by eric-wieser — COMMENTED** [review]
bors d-

There are a handful of small things left on this PR that mean I think it's probably not quite ready. I'll try to either review them or fix them myself over the next few days; please ping me if I forget.

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 18]
```diff
@@ -551,6 +551,38 @@ theorem prod_embDomain [Zero M] [CommMonoid N] {v : α →₀ M} {f : α ↪ β}
 #align finsupp.prod_emb_domain Finsupp.prod_embDomain
 #align finsupp.sum_emb_domain Finsupp.sum_embDomain
 
+lemma exists_mem_embDomain_eq [Zero M] {f : α ↪ β} {g : β →₀ M} :
+    (∃ (v : α →₀ M), embDomain f v = g) ↔ (g.support : Set β) ⊆ (Set.range f) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:555]: This doesn't belong in `BigOperators`; can you put it in `Finsupp.Basic` instead?

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 19]
```diff
@@ -551,6 +551,38 @@ theorem prod_embDomain [Zero M] [CommMonoid N] {v : α →₀ M} {f : α ↪ β}
...
+  · rintro ⟨v, rfl⟩
+    simp only [Finsupp.support_embDomain, coe_map, Set.image_subset_iff,
+      Set.preimage_range, Set.subset_univ]
+  · intro hg
+    set v : α →₀ M :=
+    { toFun := g.toFun.comp f,
+      support := Finset.preimage g.support f (Set.injOn_of_injective f.injective _),
+      mem_support_toFun := fun a => by
+        simp only [mem_preimage, mem_support_iff, ne_eq, comp_apply]
+        rfl} with hv
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:566]: This is `Finsupp.comapDomain`

File: Mathlib/Data/Finset/Image.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Data/Finset/Image.lean:892]: Uh, I doubt we want this? Either you replace `Finset.map` everywhere or you simply use `Finset.image` in your application.

Note that `Finset.preimage` will soon change from assuming `s.InjOn f` to `s.FinitelyFiberedOn f`.

File: Mathlib/Algebra/BigOperators/Finsupp.lean (hunk 18 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/BigOperators/Finsupp.lean:555]: OK. It is at a slightly bizarre place because, making use of your next comment, it has to be included after docs#Finsupp.comapDomain

File: Mathlib/Algebra/BigOperators/Finsupp.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/BigOperators/Finsupp.lean]: yes. I use that, thanks!

File: Mathlib/Data/Finset/Image.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Image.lean:892]: This comes from https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Finset.2EInjOn.2Emap/near/404409525

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Image.lean]: In any case, subsequent modifications made it useless here, so I just deleted it.

File: Mathlib/Data/Finsupp/Basic.lean [hunk 20]
```diff
@@ -716,6 +716,32 @@ theorem eq_zero_of_comapDomain_eq_zero [AddCommMonoid M] (f : α → β) (l : β
...
 
+lemma exists_mem_embDomain_eq [Zero M] {f : α ↪ β} {g : β →₀ M} :
+    (∃ (v : α →₀ M), embDomain f v = g) ↔ (g.support : Set β) ⊆ (Set.range f) := by
+  constructor
+  · rintro ⟨v, rfl⟩
+    simp only [Finsupp.support_embDomain, coe_map, Set.image_subset_iff,
+      Set.preimage_range, Set.subset_univ]
+  · intro hg
+    use Finsupp.comapDomain f g (f.injective.injOn _)
+    ext b
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:727]: Is there a lemma you can use here about `embDomain _ (comapDomain _ _)`? If not, can you write that lemma?

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:727]: The only existing way would rewrite `embDomain` as `mapDomain`, but this assumes `AddCommMonoid M`, which is not needed.
I'll write that lemma.

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:727]: (mapDomain sums over preimages, but when f is injective, the sum is reduced to a subsingleton).
On the other hand, docs#mapDomain_comapDomain makes an injectivity assumption; my guess is that it should be rephrased as  embDomain_comapDomain, and the initial mapDomain_comapDomain proved in terms of it.

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 21]
```diff
@@ -0,0 +1,366 @@
...
+    use Finsupp.erase a f
+    constructor
+    · ext x
+      by_cases hx : x = a
+      · rw [hx]
+        simp only [coe_update, update_same]
+      · simp only [Finsupp.update, mem_support_iff, ne_eq, not_not, support_erase, coe_mk]
+        simp only [Function.update, dif_neg hx]
+        simp only [Finsupp.erase, coe_mk]
+        rw [if_neg hx]
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:223]: I think #9316 will help here

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/PiAntidiagonal.lean]: when will it be available?

**Comment by AntoineChambert-Loir** [comment]
Thanks @eric-wieser  for the modifications you made. It is cool that everything is now computable.

I was aware of one issue (for piAntidiagonal) but didn't know how to start the proof; I don't know whether the sequence `(Fintype.truncEquivFinOfCardEq <| Fintype.card_coe s).lift` deserves to be extracted from that code, but at least it needs to be exemplified somewhere in tutorials.

The other computability issues you solved probably deserve to be extracted to mathlib, don't you think?

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 22]
```diff
@@ -0,0 +1,361 @@
...
+    -- This is a computable version of `embDomain (.subtype _)`
+    { toFun := fun f =>
+      { support := f.support.map (.subtype _),
+        toFun := fun i => if h : i ∈ s then f ⟨_, h⟩ else 0
+        mem_support_toFun := fun i => by simp }
+      inj' := fun f g h => Finsupp.ext fun i => by
+          replace h := FunLike.congr_fun h i.val
+          dsimp at h
+          simp_rw [dif_pos i.prop] at h
+          exact h }
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:133]: This is now in #9325

File: Mathlib/Data/Finset/PiAntidiagonal.lean [hunk 23]
```diff
@@ -0,0 +1,345 @@
...
+theorem mem_piAntidiagonal_insert [DecidableEq ι] {a : ι} {s : Finset ι}
+    (h : a ∉ s) (n : μ) {f : ι →₀ μ} :
+    f ∈ piAntidiagonal (insert a s) n ↔
+      ∃ m ∈ antidiagonal n, ∃ (g : ι →₀ μ),
+        f = Finsupp.update g a m.1 ∧ g ∈ piAntidiagonal s m.2 := by
+  simp only [mem_piAntidiagonal', le_eq_subset, mem_antidiagonal, Prod.exists, sum_insert h]
+  constructor
+  · rintro ⟨hsupp, rfl⟩
+    refine ⟨_, _, rfl, Finsupp.erase a f, ?_, ?_, ?_⟩
+    · rw [update_erase, update_self]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Finset/PiAntidiagonal.lean:231]:
```suggestion
    · rw [update_erase_eq_update, update_self]
```

**Review by eric-wieser — APPROVED** [review]
I think this is now ready to go; though I'd like to wait a day or two to see if #9325 settles.

File: Mathlib/Data/Finsupp/Basic.lean [hunk 24]
```diff
@@ -722,6 +727,29 @@ section Zero
...
+lemma exists_mem_embDomain_eq {f : α ↪ β} {g : β →₀ M} :
+    (∃ (v : α →₀ M), embDomain f v = g) ↔ (g.support : Set β) ⊆ (Set.range f) := by
+  constructor
+  · rintro ⟨v, rfl⟩
+    simp only [Finsupp.support_embDomain, coe_map, Set.image_subset_iff,
+      Set.preimage_range, Set.subset_univ]
+  · intro hg
+    use Finsupp.comapDomain f g (f.injective.injOn _)
+    ext b
+    rw [embDomain_comapDomain hg]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:748]: I'm not convinced this lemma is worth having; it's not longer used, and the statement feels rather contrived. Do you agree?

**Review by eric-wieser — APPROVED** [review]
Just one comment remaining; thanks for your patience.

@jcommelin, can you take a final look?

File: Mathlib/Data/Finsupp/Basic.lean (hunk 24 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:748]: I see that it isn't used anymore, but we have the extension by 0 functor, and I tend to like that we can describe its image, which is given by the <- part
(the -> direction  is just `simp`).
It is true that anybody fluent enough in mathlib would think of writing `Finsupp.comapDomain f g (f.injective.injOn _)` when in need of that map?
If you think yes, then OK. (And precisely, the functions you wrote may make that true.)

Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Basic.lean:748]: I would think yes. `comapDomain` is rather descriptive as a name.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
